US06063806
β-(3,5-Dimethylanilino)propionic acid (1.2 g) was added by portions to sulfuric acid (60° C., 12 ml), and the mixture was stirred at the same temperature for 0.5 hr. The reaction mixture was poured into ice water (100 ml) and extracted with chloroform (100 ml). After washing with water, the chloroform layer was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate/benzene=1/5-1/1) to give 750 mg of 5,7-dimethylquinolone as crystals.

reactant | β-(3,5-Dimethylanilino)propionic acid | 1.2 g | CC=1C=C(NCCC(=O)O)C=C(C1)C | C11H15NO2
reactant | sulfuric acid | 12 ml | S(O)(O)(=O)=O | H2O4S
product | 5,7-dimethylquinolone | 750 mg | CC1=C2C=CC(NC2=CC(=C1)C)=O | C11H11NO
